US07989463B2
Step (i): Synthesis of 1-{4-[2-(4,4-Difluoro-piperidin-1-yl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-phenyl}cyclobutanecarboxylic acid methyl ester
A mixture of 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester (0.36 g, 1 mmol), 4,4-difluoropiperidine hydrochloride (0.23 g, 1.5 mmol), diisopropylethylamine (0.5 mL, 3 mmol) in anhydrous isopropanol (10 mL) was heated to reflux for 48 hours. Thereafter, the mixture was cooled to a temperature in the range of 40° C. to 60° C. and concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed sequentially with water, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to yield a semi solid residue. Ether was added to the residue and the precipitates were filtered to afford the title compound as a white solid (0.34 g, 77% yield).

reactant | 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester | 1 mmol, 0.36 g | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)Cl | C19H20ClN3O2
reactant | 4,4-difluoropiperidine hydrochloride | 1.5 mmol, 0.23 g | Cl.FC1(CCNCC1)F
reactant | diisopropylethylamine | 3 mmol, 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Ether | CCOCC | C4H10O
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 1-{4-[2-(4,4-Difluoro-piperidin-1-yl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-phenyl}cyclobutanecarboxylic acid methyl ester | 0.34 g, 77% yield | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)N2CCC(CC2)(F)F | C24H28F2N4O2
